Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PLASTIC
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
lacerations to left hand
 
Major Surgical or Invasive Procedure:
left ulnar artery and nerve reconstruction at ___ canal, 
repair of lacerations, ___
 
History of Present Illness:
___, RHD, ___ student w/ remote hx of hemicraniotomy for
unknown reasons who presents to the ED after being assaulted at 
a
party late last night, he is intoxicated with a BAC of 71.  He
was involved in an argument with an unknown assailant when the
man struck him over the head with a bottle, stabbed him in the
chest with a glass shard, and upon trying to stab him again, the
patient grabbed the shard which lacerated his left hand.  He was
also bitten on the right forearm.  Given Clindamycin and TDAP in
ED.
 
Past Medical History:
OCD, hemicraniotomy for unknown reasons

 
Social History:
___
Family History:
noncontribuory
 
Physical Exam:
Exam during ED presentation: 
Vitals: During exam, patient became hypotensive to ___'s/___'s
General: A&Ox3, NAD
CAM/MINICOG: Negative
Heart: Regular rate and rhythm peripherally
Lungs: Breathing comfortably on room air. 

Right upper extremity:
- Skin intact, small bite mark to right volar forearm--does not
appear to have penetrated the skin
- No deformity, erythema, edema, induration or ecchymosis 
- Soft, non-tender arm and forearm
- Full, painless active/passive ROM of shoulder, elbow, wrist,
and digits
- EPL/FPL/DIO (index) fire
- Sensation intact to light touch in 
axillary/radial/median/ulnar
nerve distributions
- 2+ radial pulse, fingers warm and well perfused
 
Left upper extremity:
- large, horizontal 5 cm laceration across the 
thenar--hypothenar
eminence which probes down to ___ canal.  Pulsatile bleeding
is noted in the wound bed--profuse bleeding noted. 
- 1 cm laceration noted to volar aspect of PIP of IF.  Finger
held in flexion with no motion of DIP.
- Full, painless active/passive ROM of shoulder, elbow.  Patient
unable to tolerate wrist exam ___ pain.
- Firing EPL/FPL, able to flex and extend all fingers.  Unable 
to
abduct/adduct fingers
- Sensation intact to light touch in radial nerve distribution
and part of median nerve distribution.  Altered sensation in
ulnar n distribution and recurrent median n distribution.
- 2+ radial pulse, fingers warm and well perfused, dopplerable
pulses in each digit.

Exam on discharge: 
NAD, lying in bed, breathing comfortably, no abdominal 
distention or extremity edema. 
LUE in splint, fingers warm and well perfused, ___ sec cap 
refill, sensation intact in median nerve distribution, numb in 
ulnar two digits. After removing splint, dressing c/d/I, 
incisions intact, no bleeding or hematoma. Fires FPL and EPL, 
but not interosseous muscles. able to make fist but has 
extension lag in ulnar two digits, though passive ROM normal in 
all joints. 
 
Pertinent Results:
___ 06:10AM BLOOD WBC-8.4 RBC-3.11* Hgb-9.6* Hct-28.9* 
MCV-93 MCH-30.9 MCHC-33.2 RDW-12.5 RDWSD-42.3 Plt ___
___ 08:45AM BLOOD Neuts-78.1* Lymphs-16.1* Monos-4.8* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-8.36* AbsLymp-1.72 
AbsMono-0.51 AbsEos-0.01* AbsBaso-0.02
___ 06:10AM BLOOD Plt ___
___ 06:30AM BLOOD ___ PTT-26.0 ___
___ 06:30AM BLOOD UreaN-15 Creat-0.9
___ 06:30AM BLOOD ASA-NEG Ethanol-71* Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 03:04PM BLOOD ___ pO2-122* pCO2-48* pH-7.35 
calTCO2-28 Base XS-0 Intubat-INTUBATED Comment-PERIPHERAL
___ 06:42AM BLOOD pH-7.46* Comment-GREEN TOP
___ 03:04PM BLOOD Glucose-110* Lactate-2.7* Na-136 K-4.8 
Cl-103
 
Brief Hospital Course:
___ was taken to the OR on ___ with Dr. ___ repair 
of his ulnar artery and ulnar nerve, motor and sensory injury at 
the level of the wrist. Please refer to his operative note for 
details. He was placed in a splint and admitted to the floor for 
monitoring. cap refill and o2 probe was used to monitor 
perfusion, and it remained normal throughout his stay. he was 
placed on asa 325 daily for 30 days, and remained on 
prophylactic lovenox. he was seen by psychiatry and social work 
during his time here as he was very anxious about his assailant 
finding him here and hurting him again. He mentioned wanting to 
go back to ___ multiple times. we worked with the ___ 
and ___ to find him an alternative 
housing situation, which they successfully found. On POD3, 
occupational therapy  changed his splint into a removable 
splint. all incisions were healing well and he was shown how to 
change his dressing daily. Psychiatry and social work felt 
comfortably that he was not suicidal and could follow up safely 
with his outpatient therapist, ___. he remained in the 
hospital one additional day given a snowstorm that prevented his 
discharge, but otherwise did well, pain controlled, and his hand 
exam remained stable throughout. He received 24 hours of 
postoperative abx with clindamycin, but did not get discharged 
on any. 
 
Medications on Admission:
fluoxetine
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Aspirin 325 mg PO DAILY 
Please continue to take for 30 days. 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Ibuprofen 600 mg PO Q6H  
4.  OxyCODONE (Immediate Release) ___ mg PO Q3H:PRN Pain - 
Moderate 
do not drink alcohol or drive while taking this medication. 
RX *oxycodone 5 mg 1 tablet(s) by mouth EVERY 4 hours Disp #*40 
Tablet Refills:*0 
5.  FLUoxetine 80 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left hand laceration and injury to ulnar nerve and artery

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please follow up with Dr. ___ in 2 weeks.  Please keep left 
hand splinted overnight and otherwise you may remove it at times 
throughout the day and move your joints as taught by your 
therapist. You do not need to remove your splint every time you 
need to range your joints in your hand. 
-continue taking aspirin 325 daily for 30 days

 
Followup Instructions:
___